US04062965
a. Preparation of 1-n-dodecyl-2-methyl-3-n-octyl-imidazole bromide
1 mole of 1-n-dodecyl-2-methylimidazole is dissolved in 500 ml of n-propanol and reacted with 1.1 moles of n-octyl bromide. The reaction mixture is heated at 100° C for 5 hours. Upon removing the solvent, the remaining residue is washed with ether, suctioned off, and dried.

reactant | 1-n-dodecyl-2-methylimidazole | 1 mole | C(CCCCCCCCCCC)N1C(=NC=C1)C | C16H30N2
reactant | n-octyl bromide | 1.1 moles | C(CCCCCCC)Br | C8H17Br
solvent | n-propanol | 500 ml | C(CC)O | C3H8O
product | 1-n-dodecyl-2-methyl-3-n-octyl-imidazole bromide | [Br-].C(CCCCCCCCCCC)N1C(N(C=C1)CCCCCCCC)C | InChI=1S/C24H48N2.BrH/c1-4-6-8-10-12-13-14-15-17-19-21-26-23-22-25(24(26)3)20-18-16-11-9-7-5-2;/h22-24H,4-21H2,1-3H3;1H/p-1
